US08168815B2
Step 4: 1-bromo-6-(bromomethyl)-2-iodonaphthalene
To a solution of POBr3 (662 mg, 2.3 mmol) in 4.5 mL of CH2Cl2 at 0° C. was added DMF (2.25 mL) dropwise. The reaction was stirred for 10 minutes and then a solution of (5-bromo-6-iodo-2-naphthyl)methanol (280 mg, 0.77 mmol) in 5 mL of CH2Cl2 was added. The reaction mixture was stirred for 30 minutes, quenched with a saturated solution of NH4Cl, extracted with EtOAc and dried over Na2SO4. The organic extracts were evaporated to dryness to afford the titled product which was used as such in the next step.

reactant | POBr3 | 2.3 mmol, 662 mg | P(=O)(Br)(Br)Br | Br3OP
reactant | DMF | 2.25 mL | CN(C)C=O | C3H7NO
reactant | (5-bromo-6-iodo-2-naphthyl)methanol | 0.77 mmol, 280 mg | BrC1=C2C=CC(=CC2=CC=C1I)CO | C11H8BrIO
solvent | CH2Cl2 | 4.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-bromo-6-(bromomethyl)-2-iodonaphthalene | BrC1=C(C=CC2=CC(=CC=C12)CBr)I | C11H7Br2I
